*Waveform 1: To Test Data Sampling and Clock Edge
vclk Clk 0 pulse (0 vdd_value 5n 0.1n 0.1n 10n 20n)     
vres Reset 0 pulse (0 vdd_value 0 0.1n 0.1n 39n 39n)       
vd  Data 0 pulse (0 vdd_value 10n pRiseT pFallT 20n 40n) 

